* Spice netlister for gnetlist
L2 6 1 0.2673913164572836mH IC=0
R2 7 6 61.67028661993925m
VS1 4 0 DC 900
C1 5 0 11.00000000000000000000mF
L1 8 7 10uH IC=0
R4 0 VF2 10m
R3 4 5 33
R1 5 8 10m
VG1 3 0 DC 0 AC 1 0 PULSE ( 0 12 10  0  0  1e19 1e20 )
SW1 1 VF2 3 0 switch1 OFF
.model switch1 sw vt=12 vh=0 ron=1u roff=1g


.control
tran 1ms 10.02 10
*plot v(VF2)
let vmax = vecmax(v(VF2))
let imax=vmax/10m
print imax

quit
.endc

.END
